US06326386B1
2-(3-Formyl-5-methyl-phenoxy)-acetic acid
A stirred solution of 2-(3-formyl-5-methyl-phenoxy)-acetic acid ethyl ester (0.79 g) in methanol (4 ml) at 5° C. was treated with a 2M sodium hydroxide solution (3.6 ml). After 15 min the mixture was allowed to warm to room temperature. After a further 2 h the stirred solution was again cooled to 5° C. and covered with ethyl acetate and the aqueous layer was adjusted to acidic pH with 2M hydrochloric acid. The layers were separated and the aqueous phase was extracted with more ethyl acetate. The combined organic phase was washed with water and brine and dried with magnesium sulphate. Concentration gave a gummy solid which was triturated with diethyl ether giving, after drying, the title compound (0.47 g) as a pale yellow solid. Hplc system 1 (λ=254 nm) Rt 5.2 min.

reactant | 2-(3-formyl-5-methyl-phenoxy)-acetic acid ethyl ester | 0.79 g | C(C)OC(COC1=CC(=CC(=C1)C)C=O)=O | C12H14O4
reactant | sodium hydroxide | 2M, 3.6 ml | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | methanol | 4 ml | CO | CH4O
product | 2-(3-Formyl-5-methyl-phenoxy)-acetic acid | C(=O)C=1C=C(OCC(=O)O)C=C(C1)C | C10H10O4
